US04200641
To a stirred and refluxing (water-separator) mixture of 30 parts of 3-[(2-amino-4-chlorophenyl)amino]-1-propanol and 0.1 parts of 4-methylbenzenesulfonic acid in 405 parts of methylbenzene is added dropwise a solution of 34 parts of cyclohexanecarboxaldehyde in 45 parts of methylbenzene. Upon completion, stirring is continued for one hour at reflux temperature and with water-separator. The methylbenzene is removed by evaporation in vacuo and the residue is triturated in 2,2'-oxybispropane. The product is filtered off and dried, yielding 5-chloro-2-cyclohexyl-1H-benzimidazole-1-propanol; mp. 95° C.

reactant | 3-[(2-amino-4-chlorophenyl)amino]-1-propanol | NC1=C(C=CC(=C1)Cl)NCCCO | C9H13ClN2O
reactant | 4-methylbenzenesulfonic acid | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
reactant | cyclohexanecarboxaldehyde | C1(CCCCC1)C=O | C7H12O
solvent | water | O | H2O
solvent | methylbenzene | CC1=CC=CC=C1 | C7H8
product | 5-chloro-2-cyclohexyl-1H-benzimidazole-1-propanol | ClC1=CC2=C(N(C(=N2)C2CCCCC2)CCCO)C=C1 | C16H21ClN2O
